US07407961B2
A toluene solution of 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide (200 mg), 2-(tributylstannyl)pyridine (311 mg), and Pd(PPh3)4 (22.5 mg) was refluxed for 5 hours. Water (20 ml) and EtOAc (15 ml) were poured into the reaction mixture and the aqueous solution was extracted with EtOAc. The organic layer was washed with water and brine, and dried over MgSO4. After filtration, the solvent was removed under reduced pressure. The residual solid was placed on a column of silica-gel and eluted with CHCl3—MeOH (97:3). The eluent was evaporated and the residue was suspended with IPE and filtrated to give 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(2-pyridyl)-2-pyrazinecarboxamide (64 mg) as a yellow powder.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide | 200 mg | NC=1C(=NC(=C(N1)Cl)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C13H14ClN5O2
reactant | 2-(tributylstannyl)pyridine | 311 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | Water | 20 ml | O | H2O
catalyst | Pd(PPh3)4 | 22.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(2-pyridyl)-2-pyrazinecarboxamide | 64 mg | NC=1C(=NC(=C(N1)C1=NC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C18H18N6O2
